US07855292B2
B. 3-Bromo-4-chloro-L-phenylalanine
To a solution of 2-acetylamino-malonic acid diethyl ester (15.1 g, 70 mmol) and 3-bromo-4-chlorobenzyl chloride (16.7 g, 70 mmol) in EtOH (110 mL) was added a solution of NaOEt (20% in EtOH, 28.7 mL, 73 mmol). The mixture was heated at reflux for 3 h in a flask fitted with a reflux condenser, then was treated with additional 2-acetylamino-malonic acid diethyl ester (3.0 g, 14 mmol) and NaOEt (20% in EtOH, 2.0 mL, 5.1 mmol). The mixture was heated at reflux for an additional 3 h. The mixture was cooled to rt and treated with water (200 mL). The resulting white precipitate was collected by filtration, washed with water, and suspended in a mixture of water (60 mL) and EtOH (60 mL). This mixture was heated to reflux temperature in a flask fitted with a reflux condenser. A solution of KOH (3.3 g, 59 mmol) in water (10 mL) was added dropwise. After 2 h at reflux, more KOH (5.9 g, 105 mmol) in water (20 mL) was added dropwise, and the mixture was heated at reflux for 3 h. The mixture was cooled to 0° C., diluted with water (120 mL), and treated with 50% aq. HCl until pH˜1. The resulting white precipitate was collected by filtration and washed with 0.1 M HCl. The solid was suspended in water (80 mL) and treated with 2 M aq. KOH until pH˜8.0. The solution was filtered. The filtrate was warmed to 40° C., treated with Acylase “Amano” (0.19 g, Amano Enzyme Inc., Japan) and CoCl2 (10 mg), and 2 M aq. KOH was added to keep the pH of solution at 8.0. After 4 d at 40° C., 2 M HCl was added until pH=1. The suspension was filtered and the filtrate was concentrated to 20 mL. The pH was adjusted to 6.0 with 2.0 M KOH. The mixture was kept at 0° C. overnight and the solid was collected by filtration to obtain the title compound as a light tan solid (7.67 g, 40% overall). 1H NMR (400 MHz, DMSO-d6): 7.66 (br s, 1H), 7.51 (d, J=8.2 Hz, 1H), 7.29 (d, J=8.2 Hz, 1H), 3.39 (dd, J=7.1, 5.3 Hz, 1H), 3.08 (dd, J=14.2, 4.6 Hz, 1H), 2.86 (dd, J=14.0, 7.7 Hz, 1H). To determine the enantiomeric ratio, the product was transformed to the corresponding methyl ester (SOCl2, MeOH, rt) and then to the Mosher's amide (Mosher's acid chloride, iPr2NEt, CH2Cl2). The analysis of 1H-NMR data of the amide showed that the product was a single enantiomer (e.e. >99.5%).

reactant | 2-acetylamino-malonic acid diethyl ester | 70 mmol, 15.1 g | C(C)OC(C(C(=O)OCC)NC(C)=O)=O | C9H15NO5
reactant | 3-bromo-4-chlorobenzyl chloride | 70 mmol, 16.7 g | BrC=1C=C(CCl)C=CC1Cl | C7H5BrCl2
reactant | NaOEt | 73 mmol, 28.7 mL | CC[O-].[Na+]
reactant | 2-acetylamino-malonic acid diethyl ester | 14 mmol, 3.0 g | C(C)OC(C(C(=O)OCC)NC(C)=O)=O | C9H15NO5
reactant | NaOEt | 5.1 mmol, 2.0 mL | CC[O-].[Na+]
reactant | KOH | 59 mmol, 3.3 g | [OH-].[K+]
reactant | KOH | 105 mmol, 5.9 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | EtOH | 110 mL | CCO | C2H6O
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
solvent | water | 120 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 3-Bromo-4-chloro-L-phenylalanine | 7.67 g, 40% | BrC=1C=C(C[C@H](N)C(=O)O)C=CC1Cl | C9H9BrClNO2
